US06706725B1
i) Dimethyl 4-[5-((E)-1,5-Diethyl-5-triethylsilanyloxyhept-1-enyl)-3-thienylmethoxy]phthalate
3.9 g (9.8 mmol) of [5-((E)-1,5-diethyl-5-triethylsilanyloxyhept-1-enyl)-3-thienyl]methanol are dissolved in 100 mL of dichloromethane and the mixture is cooled to 0° C. 2 mL (15 mmol) of triethylamine are added, followed by 840 μL (10.7 mmol) of methanesulphonyl chloride. After stirring for 30 minutes, the medium is treated with ammonium chloride solution. The crude residue obtained is then dissolved in 100 mL of 2-butanone. 100 mg (0.7 mmol) of sodium iodide, 1.6 g (11.6 mmol) of potassium carbonate and 2 g (10 mmol) of dimethyl 4-hydroxyphthalate are added to this solution. The reaction medium is refluxed for 15 hours and then cooled and filtered through Celite. The residue obtained is purified by chromatography on a column of silica (eluent: 93 heptane/7 ethyl acetate). The desired product is obtained in the form of a colourless oil (m=1.7 g; Y=30%).

reactant | [5-((E)-1,5-diethyl-5-triethylsilanyloxyhept-1-enyl)-3-thienyl]methanol | 9.8 mmol, 3.9 g | C(C)/C(=C\CCC(CC)(O[Si](CC)(CC)CC)CC)/C1=CC(=CS1)CO | C22H40O2SSi
reactant | triethylamine | 15 mmol, 2 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 10.7 mmol, 840 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | sodium iodide | 0.7 mmol, 100 mg | [I-].[Na+]
reactant | potassium carbonate | 11.6 mmol, 1.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl 4-hydroxyphthalate | 10 mmol, 2 g | OC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C10H10O5
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | 2-butanone | 100 mL | CC(CC)=O | C4H8O
product | Dimethyl 4-[5-((E)-1,5-Diethyl-5-triethylsilanyloxyhept-1-enyl)-3-thienylmethoxy]phthalate | C(C)/C(=C\CCC(CC)(O[Si](CC)(CC)CC)CC)/C1=CC(=CS1)COC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C32H48O6SSi
